US04439617
A solution of bromine (26.6 g, 0.167 mole) in glacial acetic acid (25 ml) was added dropwise to a cooled suspension of 6-methoxy-1-naphthalenecarboxylic acid methyl ester (30 g, 0.13 9 moles) in glacial acetic acid (2.75 ml). The precipitate was collected, washed with water and crystallized from ethanol to give 33.3 g of 5-bromo-6-methoxy-1-naphthalenecarboxylic acid methyl ester; mp 119° C.; NMR (CDCl3) δ3.97 (s, 3H), 4.03 (s, 3H), 7.35 (d, J=9.25 Hz, 1H), 7.4 (m, 1H), 8.05 (d, J=6.75 Hz, 1H), 8.45 (d, J=8.25 Hz, 1H), 8.9 (d, J=9.25, 1H). The latter ester (10.1 g, 34 mmoles) and Cu2 (CN)2.H2O (3.4 g, 17 mmoles) in distilled dimethylformamide (75 ml) containing 15 drops of pyridine was heated at 180° C. for 5 hr. The hot mixture was poured into a mixture of ice (50 g) and conc. NH4OH (50 ml). The resulting precipitate was collected, washed with water, dried and recrystallized from chloroform-ethyl acetate to afford 5.6 g of 5-cyano-6-methoxy-1-naphthalenecarboxylic acid methyl ester: mp 210°-211° C., NMR (CDCl3) δ3.95 (s, 3H), 4.15 (s, 3H). To a stirred solution of the latter ester (5.95 g, 24.66 mmoles) in 2-methoxyethanol (100 ml) at 20°-22° C., 4 N aqueous NaOH solution (12.3 ml) was added. The reaction mixture was stirred at 20°-22° C. for 60 hr, diluted with water, cooled to 0° C. and rendered acidic with 1 N aqueous HCl. The precipitate was collected and dried to yield 5.6 g of the title compound; mp>290° C.; NMR (DMSO-d6) δ4.1 (s, 3H), 8.1 (m, 5H).

reactant | bromine | 0.167 mole, 26.6 g | BrBr | Br2
reactant | 6-methoxy-1-naphthalenecarboxylic acid methyl ester | 9 moles, 30 g | COC(=O)C1=CC=CC2=CC(=CC=C12)OC | C13H12O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.75 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-6-methoxy-1-naphthalenecarboxylic acid methyl ester | 33.3 g | COC(=O)C1=CC=CC2=C(C(=CC=C12)OC)Br | C13H11BrO3
